US04954164
A solution of 7.5 ml of chlorosulfonic acid and 15 xl of dry chloroform was cooled to 0° C., and a solution of 11.5 g (0.05 mol) of 3-ethoxycarbonyl-1-methyl5-phenylpyrazole in 25 ml of dry chloroform was added dropwise thereinto. Then, the mixture was stirred at room temperature for one hour and under reflux for 3 hours. After the reaction, by evaporation of chloroform, there was obtained oily 3-ethoxycarbonyl-1-methyl-5-phenylpyrazole-4-sulfonic acid. As the next step, at room temperature 20.9 g of phosphorus pentachloride was added portionwise, followed by stirring at 90° to 100° C. for one hour. The reaction mixture was added into ice-water and extracted with ether to obtain 14.7 g of 3-ethoxycarbonyl-1-methyl-5-phenylpyrazole-4-sulfonylchloride. Then, the resultant sulfonylchloride was dissolved in 20 ml of acetone and 4.48 g of KHCO was added to the solution. After a solution of 2.7 g of aqueous ammonia (28 %) and 6.5 ml of acetone was added dropwise thereinto at room temperature, the mixture was heated at 50 to 60 ° C. for 30 minutes. After evaporation of acetone, water was added to the residue, whereby 12.9 g of the title compound was precipitated as a solid. Recrystallization from benzene gave 8.4 g of the product. m.p. 141°-144° C.

reactant | chlorosulfonic acid | 7.5 ml | ClS(=O)(=O)O | ClHO3S
reactant | 3-ethoxycarbonyl-1-methyl5-phenylpyrazole | 0.05 mol, 11.5 g | C(C)OC(=O)C1=NN(C(=C1)C1=CC=CC=C1)C | C13H14N2O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-ethoxycarbonyl-1-methyl-5-phenylpyrazole-4-sulfonic acid | C(C)OC(=O)C1=NN(C(=C1S(=O)(=O)O)C1=CC=CC=C1)C | C13H14N2O5S
